* /home/nithish/desktop/esim/examples/astable555/astable555.cir

.include lm555n.sub
r3  v_out gnd 1k
r1  net-_r1-pad1_ net-_r1-pad2_ 1k
r2  net-_r1-pad2_ c_out 10k
v1 net-_r1-pad1_ gnd  dc 10
c1  c_out gnd 0.1u
c2  net-_c2-pad1_ gnd 0.01u
* u2  v_out plot_v1
* u1  c_out plot_v1
x1 gnd c_out v_out net-_r1-pad1_ net-_c2-pad1_ c_out net-_r1-pad2_ net-_r1-pad1_ lm555n
.tran 1e-03 50e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(v_out)
plot v(c_out)
.endc
.end
