* c:\fossee\esim\library\subcircuitlibrary\cmos_nand\cmos_nand.cir

.include MOSFET_2N7002.lib
m1 net-_m1-pad1_ net-_m1-pad2_ net-_m1-pad3_ net-_m1-pad1_ 2N7002 W=2.5u L=0.5u M=1
m4 net-_m1-pad1_ net-_m3-pad2_ net-_m1-pad3_ net-_m1-pad1_ 2N7002 W=2.5u L=0.5u M=1
m2 net-_m1-pad3_ net-_m1-pad2_ net-_m2-pad3_ gnd 2N7002 W=1u L=0.5u M=1
m3 net-_m2-pad3_ net-_m3-pad2_ gnd gnd 2N7002 W=1u L=0.5u M=1
* u1  net-_m1-pad2_ net-_m3-pad2_ net-_m1-pad3_ port
v1 net-_m1-pad1_ gnd  dc 5
.tran 0e-00 0e-00 0e-00

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
.endc
.end
